data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "CC(O[C@@H]1[C@@H](OCc2ccccc2)CN2OC3(CC3)C[C@H]12)c1ccccc1Cl", "products": "CC(O[C@@H]1[C@@H](OCc2ccccc2)C[N][C@@H]1CC1([O])CC1)c1ccccc1Cl"}, {"reactants": "CC(O[C@@H]1[C@@H](OCc2ccccc2)C[N][C@@H]1CC1([O])CC1)c1ccccc1Cl", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OC(C)c1ccccc1Cl"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OC(C)c1ccccc1Cl", "products": "CC(O[C@H]1CN2CCC(=O)C[C@H]2[C@@H]1OCc1ccccc1)c1ccccc1Cl"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "Fc1cc(CO[C@@H]2[C@@H](OCc3ccccc3)CN3OC4(CC4)C[C@H]23)ccc1Cl", "products": "[O]C1(C[C@H]2[N]C[C@H](OCc3ccccc3)[C@H]2OCc2ccc(Cl)c(F)c2)CC1"}, {"reactants": "[O]C1(C[C@H]2[N]C[C@H](OCc3ccccc3)[C@H]2OCc2ccc(Cl)c(F)c2)CC1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1ccc(Cl)c(F)c1"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1ccc(Cl)c(F)c1", "products": "O=C1CCN2C[C@H](OCc3ccc(Cl)c(F)c3)[C@@H](OCc3ccccc3)[C@@H]2C1"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "Cc1ccc(F)c(N(C)C(=O)C2=CCCC2)c1Br.[Pd]", "products": "Cc1ccc(F)c(N(C)C(=O)C2=CCCC2)[c]1[Pd][Br]"}, {"reactants": "Cc1ccc(F)c(N(C)C(=O)C2=CCCC2)[c]1[Pd][Br]", "products": "Cc1ccc(F)c2c1N(C)C(=O)C21CCC[CH]1[Pd][Br]"}, {"reactants": "Cc1ccc(F)c2c1N(C)C(=O)C21CCC[CH]1[Pd][Br]", "products": "Cc1ccc(F)c2c1N(C)C(=O)C21C=CCC1.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [{"role": "reagent", "text": "NaOMe"}], "steps": [{"reactants": "Cc1ccc(S(=O)(=O)OC2C3COC(Br)(O3)C(OS(=O)(=O)c3ccc(C)cc3)C2OS(=O)(=O)c2ccc(C)cc2)cc1.[O-]C", "products": "Cc1ccc(S(=O)(=O)OC2=CC3(Br)OCC(O3)C2OS(=O)(=O)c2ccc(C)cc2)cc1"}, {"reactants": "Cc1ccc(S(=O)(=O)OC2=CC3(Br)OCC(O3)C2OS(=O)(=O)c2ccc(C)cc2)cc1.[O-]C", "products": "Cc1ccc(S(=O)(=O)OC2C([O-])=CC3(Br)OCC2O3)cc1"}, {"reactants": "Cc1ccc(S(=O)(=O)OC2C([O-])=CC3(Br)OCC2O3)cc1", "products": "O=C1C2C3COC(Br)(O3)C12"}, {"reactants": "O=C1C2C3COC(Br)(O3)C12.[O-]C", "products": "COC1([O-])C2C3COC(Br)(O3)C21"}, {"reactants": "COC1([O-])C2C3COC(Br)(O3)C21.CO", "products": "COC(=O)C1CC2COC1(Br)O2"}]}
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "Cc1ccc(C2(O)C(=O)CC3CCC2(C)C3(C)C)cc1Cl.[H+]", "products": "Cc1ccc(C2([OH2+])C(=O)CC3CCC2(C)C3(C)C)cc1Cl"}, {"reactants": "Cc1ccc(C2([OH2+])C(=O)CC3CCC2(C)C3(C)C)cc1Cl", "products": "Cc1ccc([C+]2C(=O)CC3CCC2(C)C3(C)C)cc1Cl.O"}, {"reactants": "Cc1ccc([C+]2C(=O)CC3CCC2(C)C3(C)C)cc1Cl", "products": "Cc1ccc(C23CCC(CC2=O)C(C)(C)[C+]3C)cc1Cl"}, {"reactants": "Cc1ccc(C23CCC(CC2=O)C(C)(C)[C+]3C)cc1Cl", "products": "CC1=C(c2ccc(C)c(Cl)c2)CCC(C#[O+])C1(C)C"}, {"reactants": "CC1=C(c2ccc(C)c(Cl)c2)CCC(C#[O+])C1(C)C.O", "products": "CC1=C(c2ccc(C)c(Cl)c2)CCC(C(=O)[OH2+])C1(C)C"}, {"reactants": "CC1=C(c2ccc(C)c(Cl)c2)CCC(C(=O)[OH2+])C1(C)C", "products": "Cc1ccc(C2CCC(C(=O)O)C(C)(C)[C+]2C)cc1Cl"}, {"reactants": "Cc1ccc(C2CCC(C(=O)O)C(C)(C)[C+]2C)cc1Cl", "products": "Cc1ccc(C2CCC3C(=O)[OH+]C2(C)C3(C)C)cc1Cl"}, {"reactants": "Cc1ccc(C2CCC3C(=O)[OH+]C2(C)C3(C)C)cc1Cl", "products": "Cc1ccc(C2CCC3C(=O)OC2(C)C3(C)C)cc1Cl.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "CC(O[C@@H]1[C@@H](OCc2ccccc2)CN2OC3(CC3)C[C@H]12)c1cccc(F)c1", "products": "CC(O[C@@H]1[C@@H](OCc2ccccc2)C[N][C@@H]1CC1([O])CC1)c1cccc(F)c1"}, {"reactants": "CC(O[C@@H]1[C@@H](OCc2ccccc2)C[N][C@@H]1CC1([O])CC1)c1cccc(F)c1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OC(C)c1cccc(F)c1"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OC(C)c1cccc(F)c1", "products": "CC(O[C@H]1CN2CCC(=O)C[C@H]2[C@@H]1OCc1ccccc1)c1cccc(F)c1"}]}
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "COc1cc(F)ccc1C(=O)C1C2CCC1C2", "products": "COc1cc(F)ccc1[C]([O])C1C2CCC1C2"}, {"reactants": "COc1cc(F)ccc1[C]([O])C1C2CCC1C2", "products": "COc1cc(F)ccc1C([O])=CC1C[CH]CC1"}, {"reactants": "COc1cc(F)ccc1C([O])=CC1C[CH]CC1", "products": "COc1cc(F)ccc1C(O)=CC1C=CCC1"}, {"reactants": "COc1cc(F)ccc1C(O)=CC1C=CCC1", "products": "COc1cc(F)ccc1C(=O)CC1C=CCC1"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "CN(c1ccccc1Br)C(=O)C1=CCCC1.[Pd]", "products": "CN(c1ccccc1[Pd]Br)C(=O)C1=CCCC1"}, {"reactants": "CN(c1ccccc1[Pd]Br)C(=O)C1=CCCC1", "products": "CN1C(=O)C2(c3ccccc13)C([Pd]Br)CCC2"}, {"reactants": "CN1C(=O)C2(c3ccccc13)C([Pd]Br)CCC2", "products": "CN1C(=O)C2(c3ccccc13)C=CCC2.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
